US05064947
51 mg sodium was dissolved in 5 ml n-propanol. 670 mg of the above product (2R-trans)-2,7-dihydro-2-methyl-3,7-diphenyl-5-chloro-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine dissolved in 15 ml n-propanol was added to the propoxide solution with stirring. After 1 hour the reaction was poured into 200 ml saturated NaCl and the extracts were dried over MgSO4, filtered and concentrated to yield an oil which was purified by radial chromatography (30-50-70-90% ethanol/ hexane, 2 mm plate) to yield 600 mg of (2R-trans)-2,7-dihydro-2-methyl-3,7-diphenyl-5-propoxy-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine.

reactant | sodium | 51 mg | [Na] | Na
reactant | (2R-trans)-2,7-dihydro-2-methyl-3,7-diphenyl-5-chloro-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine | C[C@H]1N=C2N(C(=NC3=C2C=NN3C3=CC=CC=C3)Cl)[C@@H]1C1=CC=CC=C1 | C20H16ClN5
reactant | propoxide | [O-]CCC
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | n-propanol | 5 ml | C(CC)O | C3H8O
solvent | n-propanol | 15 ml | C(CC)O | C3H8O
product | (2R-trans)-2,7-dihydro-2-methyl-3,7-diphenyl-5-propoxy-3H-imidazo[1,2-c]pyrazolo[4,3-e]pyrimidine | 600 mg | C[C@H]1N=C2N(C(=NC3=C2C=NN3C3=CC=CC=C3)OCCC)[C@@H]1C1=CC=CC=C1 | C23H23N5O
